US05026856
10-(4-bromo-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid
142 mg of 9,10-difluoro-2,3-dihydro-3-methyl-7--oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid, 149 mg of 4-bromoisoindoline, 114 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 103 mg of the target compound.

reactant | 9,10-difluoro-2,3-dihydro-3-methyl-7--oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 142 mg | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | 4-bromoisoindoline | 149 mg | BrC1=C2CNCC2=CC=C1 | C8H8BrN
reactant | DBU | 114 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 10-(4-bromo-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 103 mg | BrC1=C2CN(CC2=CC=C1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C21H16BrFN2O4
